US04021434
In 5 ml. of anhydrous tetrahydrofuran was suspended 193 mg. of a 50% oil dispersion of sodium hydride and after adding to the mixture 7 ml of anhydrous tetrahydrofuran solution of 1 g. of diethyl 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate, the resultant mixture was stirred at room temperature for a while. The red-brown reaction product thus obtained was cooled to temperatures of from -40° C. to -50° C. and after adding thereto 5 ml. of anhydrous tetrahydrofuran solution of 380 mg. of ethoxymethyl chloride at the same temperature, the mixture was stirred for one hour and 45 minutes at the same temperature. By treating further the reaction product as in Example 1, 370 mg. of white crystals of diethyl 1-ethoxymethyl-2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate melting at 125° C. was obtained. The product was confirmed in the infrared absorption spectra and the nuclear magnetic resonance spectra to completely coincide with the presumed structure.

reactant | sodium hydride | [H-].[Na+]
reactant | diethyl 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C19H22N2O6
reactant | ethoxymethyl chloride | C(C)OCCl | C3H7ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | diethyl 1-ethoxymethyl-2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | C(C)OCN1C(=C(C(C(=C1C)C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C22H28N2O7
